US07723331B2
c) 6-(4-Chlorophenyl)-3-(3-{[(2S)-1-methylpyrrolidin-2-yl]methoxy}benzyl)thieno[3,2-d]pyrimidin-4(3H)-one
The title compound was synthesised using the same method as described for Example 20c using the reagents 5-(4-Chloro-phenyl)-3-(dimethylamino-methyleneamino)-thiophene-2-carboxylic acid methyl ester (0.176 g, 0.55 mmol) and 1-(3-{[(2S)-1-methylpyrrolidin-2-yl]methoxy}phenyl)methanamine (0.10 g, 0.45 mmol). Purification by prep-HPLC gave the product as a solid. Yield: 0.22 g (41%). 1H NMR (400 MHz, CD3OD) δ 8.08 (s, 1H), 7.58-7.64 (m, 2H), 7.38-7.46 (m, 3H), 7.21-7.27 (m, 1H), 6.82-6.94 (m, 3H), 5.17 (s, 2H), 3.90-3.99 (m, 1H), 3.79-3.87 (m, 1H), 3.03-3.13 (m, 1H), 2.54-2.66 (m, 1H), 2.43 (s, 3H), 2.22-2.32 (m, 1H), 1.92-2.06 (m, 1H), 1.64-1.88 (m, 3H). MS (ESI+) 466.12 (M+1H+).

reactant | 5-(4-Chloro-phenyl)-3-(dimethylamino-methyleneamino)-thiophene-2-carboxylic acid methyl ester | 0.55 mmol, 0.176 g | COC(=O)C=1SC(=CC1N=CN(C)C)C1=CC=C(C=C1)Cl | C15H15ClN2O2S
reactant | 1-(3-{[(2S)-1-methylpyrrolidin-2-yl]methoxy}phenyl)methanamine | 0.45 mmol, 0.10 g | CN1[C@@H](CCC1)COC=1C=C(C=CC1)CN | C13H20N2O
product | 6-(4-Chlorophenyl)-3-(3-{[(2S)-1-methylpyrrolidin-2-yl]methoxy}benzyl)thieno[3,2-d]pyrimidin-4(3H)-one | ClC1=CC=C(C=C1)C1=CC=2N=CN(C(C2S1)=O)CC1=CC(=CC=C1)OC[C@H]1N(CCC1)C | C25H24ClN3O2S
